US04085211
Following the procedure of Example 54, Step B but substituting 3,5-diamino-6-fluoro-N-{[(imidazolcarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide (1.3 g.) and isopropylamine (0.45 ml) in place of the corresponding reactants in Example 54, Step B there is obtained 3,5-diamino-6-fluoro-N-{[(isopropylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide. Yield: 600 Mg. M.P. 221° C.

reactant | 3,5-diamino-6-fluoro-N-{[(imidazolcarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide | 1.3 g | NC=1C(=NC(=C(N1)N)F)C(=O)N=CNNC(=O)C=1NC=CN1 | C10H10FN9O2
reactant | isopropylamine | 0.45 ml | C(C)(C)N | C3H9N
product | 3,5-diamino-6-fluoro-N-{[(isopropylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)F)C(=O)N=CNNC(=O)NC(C)C | C10H15FN8O2
